data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21]1[C:22](=[OH+:23])C(CC2C13CCN(C2CC4=C3C(=C(C=C4)OC)O)CC5CC5)OC.COC1CC2C3CC4=C(C2(CC[N:10]3CC5CC5)CC1=O)C(=C(C=C4)OC)O.CS(=O)(=O)[O-]>>[H:20][N+:10]1(CCC23CC(=O)C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC)CC5CC5.COC1CC2C3CC4=C(C2(CCN3CC5CC5)[CH:21]=[C:22]1[OH:23])C(=C(C=C4)OC)O.CS(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
COC(=O)C1C2CCN(CCC3=C1N(C4=C3C=CC=C4)C(=O)OC)C(=O)[C:20]2=[S+:21]C.C(=O)(C(F)(F)F)[O-:10].CC1=CC(=[NH+]C(=C1)C(C)(C)C)C(C)(C)C>>COC(=O)C1C2CCN(CCC3=C1N(C4=C3C=CC=C4)C(=O)OC)C(=O)[C:20]2([O:10]C(=O)C(F)(F)F)[S:21]C.CC1=CC(=[NH+]C(=C1)C(C)(C)C)C(C)(C)C 10=20;20,21=21
CC=CC[O-:10].CC1=CC=C(C=C1)[S:20](=O)(=[O:21])Cl>>CC=CC[O:10][S:20](=O)(C1=CC=C(C=C1)C)([O-:21])Cl 10=20;20,21=21
[H:20][C:21]1(C=C(O[C+:22]1C)C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC1=C[C:21](=[C:22](O1)C)S(=O)(=O)O 10=20;20,21=21,22
[H:10][Al-:11](CCC)(CC(C)C)CC(C)C.C1=CC=C(C=C1)C=C[C:20](=[O:21])C2=CC=CC=C2.[Li+]>>[H:10][C:20](C=CC1=CC=CC=C1)(C2=CC=CC=C2)[O-:21].CCC[Al:11](CC(C)C)CC(C)C.[Li+] 10,11=10,20;20,21=21
CCCC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC(=C2)CC(C)C)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC(=C2)CC(C)C)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[H:10][C:11]1(CCC(CC1CCC)CC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CCC)CC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
C[CH:20]([O-:10])[S:21]C1=CC=CC=C1.C1=CC=C(C=C1)SC(=O)C(F)(F)F.C1=CC=[NH+]C=C1.C(=O)(C(F)(F)F)OC(=O)C(F)(F)F>>C[CH:20]=[O:10].C1=CC=C(C=C1)[S-:21].C1=CC=C(C=C1)SC(=O)C(F)(F)F.C1=CC=[NH+]C=C1.C(=O)(C(F)(F)F)OC(=O)C(F)(F)F 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.C1CC([NH:10]C1)C2=NN=NN2.CCCCC(=O)C1=C(C=CC(=C1)Br)O.C1=CC(=CC=C1C=O)[N+](=O)[O-]>>[H:20][NH+:10]1CCCC1C2=NN=NN2.C(=O)(C(F)(F)F)[O-:21].CCCCC(=O)C1=C(C=CC(=C1)Br)O.C1=CC(=CC=C1C=O)[N+](=O)[O-] 10=20;20,21=21
C1C(=O)NC2=C(C=CC=C2)[C:20](=[NH+:21]1)C3=NC=CC=C3.[OH2:10].[Cl-]>>C1C(=O)NC2=C(C=CC=C2)[C:20]([NH:21]1)(C3=NC=CC=C3)[OH2+:10].[Cl-] 10=20;20,21=21
[H:20][N+:21]1=CC=CC=C1.CC(C)(CO)COC(C1=CC(=C(C=C1)OC)Br)[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH+:10]C(C1=CC(=C(C=C1)OC)Br)OCC(C)(C)CO.C1=CC=[N:21]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:10][AlH3-:11].C[CH:20]=[O:21]>>[H:10][CH:20](C)[O-:21].[AlH3:11] 10,11=10,20;20,21=21
[H:20][N:21](C(C(=O)OC)Cl)C(=O)OCC1=CC=CC=C1.CCC=[CH:10][Mg:11]Br>>[H:20][CH:10]=CCC.COC(=O)C([N-:21]C(=O)OCC1=CC=CC=C1)Cl.[Mg+:11]Br 10,11=10,20;20,21=21
C[O:21][CH:20](CC[O-])[O-:10]>>C[O-:21].C(C[O-])[CH:20]=[O:10] 10=20;20,21=21
CCOC(=[O:10])N(CC1=CC=CC=C1)C(C=[C+:20]C[Si](C)(C)C)C2=CC=CC=C2.CCO[Sn-](Cl)(Cl)(Cl)Cl>>CCOC1=[O+:10][C:20](=CC(N1CC2=CC=CC=C2)C3=CC=CC=C3)C[Si](C)(C)C.CCO[Sn-](Cl)(Cl)(Cl)Cl 10=20,
[H:20][NH+:21](C1=C(C=CC=C1)[N+](=O)[O-])C(C2=CC=CC=C2)([N+]3=CC=C(C=C3)N(C)C)[O-].C1=CC=[N:10]C=C1.[Cl-]>>[H:20][N+:10]1=CC=CC=C1.CN(C)C1=CC=[N+](C=C1)C(C2=CC=CC=C2)([NH:21]C3=C(C=CC=C3)[N+](=O)[O-])[O-].[Cl-] 10=20;20,21=21
C#CC(C1=CC=C(C=C1)OCCCCC2=C[N:10]([CH:20]=[NH+:21]2)[C:11](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)O.CCO.O>>C#CC(C1=CC=C(C=C1)OCCCCC2=C[N:10]=[CH:20][NH:21]2)O.C1=CC=C(C=C1)[C+:11](C2=CC=CC=C2)C3=CC=CC=C3.CCO.O 10,11=10,20;20,21=21
[Li+:20].CC1CC(C=C(C1)[O:10][Si-](C)(C)(C)C)CC(=C)C>>[Li:20][O+:10](C1=CC(CC(C1)C)CC(=C)C)[Si-](C)(C)(C)C 10=20,
C[C+:20]=O.[CH:11]1=[CH:10]OC(=C1)C#N>>C[C:20](=O)[CH:10]1[CH+:11]C=C(O1)C#N 10,11=10,20
[H:20][NH3+:21].C1CCC(C(C1)CC(=O)C2=CC=C(C=C2)Cl)(N)[O-:10].CO>>[H:20][O:10]C1(CCCCC1CC(=O)C2=CC=C(C=C2)Cl)N.[NH3:21].CO 10=20;20,21=21
[H:20][N+:21](CC)(CC)CC.CC1=C(SC(=[N+]1CC2=CC=CC=C2)C(C3=CC=C(C=C3)F)[O-:10])CCO.CC(=O)OCC(=O)C=C.[Cl-]>>[H:20][O:10]C(C1=CC=C(C=C1)F)C2=[N+](C(=C(S2)CCO)C)CC3=CC=CC=C3.CC[N:21](CC)CC.CC(=O)OCC(=O)C=C.[Cl-] 10=20;20,21=21
C[C+:20]=O.[CH:11]1=[CH:10]OC=C1S(=O)(=O)O>>C[C:20](=O)[CH:10]1[CH+:11]C(=CO1)S(=O)(=O)O 10,11=10,20
[H:20][NH+:21](CCC1=CNC2=CC=CC=C21)C(C(=O)CC3=CC=CC=C3)(C(=O)OC(C)(C)C)[O-].C1=CC2=C(C=C1)NC=C2CC[NH2:10]>>[H:20][NH2+:10]CCC1=CNC2=C1C=CC=C2.CC(C)(C)OC(=O)C(C(=O)CC1=CC=CC=C1)([NH:21]CCC2=CNC3=CC=CC=C32)[O-] 10=20;20,21=21
[H:20][C:21](C)([C:22](=[O:23])N(C)C)Br.[OH-:10]>>[H:20][OH:10].C[C:21](=[C:22](N(C)C)[O-:23])Br 10=20;22,23=23;20,21=21,22
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C(=C1)Br)OCC)Br.[Fe-]([Br:10])(Br)(Br)Br>>[H:20][Br+:10][Fe-](Br)(Br)Br.CCO[C:24]1=[CH:23][CH:22]=[C:21](C=C1Br)Br 10=20;20,21=21,22;22,23=23,24
[H:10][AlH3-:11].[Li][O+:21]=[C:20]1CCC(CC1(C)C)C(C)(C)C>>[H:10][C:20]1(CCC(CC1(C)C)C(C)(C)C)[O:21][Li].[AlH3:11] 10,11=10,20;20,21=21
[CH:11]1=[CH:10]OC=C1Br.[Br:20][Br:21]>>C1=C([CH+:11][CH:10](O1)[Br:20])Br.[Br-:21] 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C1=CC=CC(=C1)Cl.CC1(CC(C(=O)C=C1)(C)CC2C([O:10]2)(C)[Si](C)(C)C)C>>[H:20][O+:10]1C(C1(C)[Si](C)(C)C)CC2(CC(C=CC2=O)(C)C)C.C1=CC(=CC(=C1)C(=O)[O-:21])Cl 10=20;20,21=21
CCO[C:20](=[O:21])C.C1C[CH:10]=[C:11](C1)[O-:12]>>CCO[C:20](C)([CH:10]1CCC[C:11]1=[O:12])[O-:21] 10,11=10,20;20,21=21;12=11
